US07612114B2
{2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine
To a solution of 4-{2-{[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol (160 mg) in N,N-dimethylformamide (3 ml) were sequentially added potassium carbonate (100 mg) and 1-(2-chloroethyl)azepane (110 mg), and the solution was stirred for 2 hours at 60° C. Water was added thereto followed by stirring, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, and the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (157 mg).

reactant | 4-{2-{[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamino}ethyl}phenol | 160 mg | COC=1C=CC(=C(C1)CNCCC1=CC=C(C=C1)O)C1CC2=CC=C(C=C2CC1)OC | C27H31NO3
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)azepane | 110 mg | ClCCN1CCCCCC1 | C8H16ClN
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | {2-[4-(2-Azepan-1-ylethoxy)phenyl]ethyl}[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]methylamine | 157 mg | N1(CCCCCC1)CCOC1=CC=C(C=C1)CCNCC1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C35H46N2O3
